US07109186B2
Compound 750: 1-[2-(2,6-Dimethyl-morpholin-4-yl)-ethyl]-4-hydroxy-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide
Compound 750 was prepared from 1-(2,2-dimethoxy-ethyl)-4-hydroxy-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide and 2,6-dimethyl-morpholine using the method described for compound 747. The title compound was isolated as a pale yellow powder (0.014 g, 14% yield). HRMS (M+H) calcd for C21H28N3Cl2O4: 456.14570. found: 456.1472.

reactant | 1-(2,2-dimethoxy-ethyl)-4-hydroxy-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide | ClC=1C=C(CN(C(=O)C=2CN(C(C2O)=O)CC(OC)OC)C)C=CC1Cl | C17H20Cl2N2O5
reactant | 2,6-dimethyl-morpholine | CC1CNCC(O1)C | C6H13NO
product | 1-[2-(2,6-Dimethyl-morpholin-4-yl)-ethyl]-4-hydroxy-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide | ClC=1C=C(CN(C(=O)C=2CN(C(C2O)=O)CCN2CC(OC(C2)C)C)C)C=CC1Cl | C21H27Cl2N3O4
